US05296485
1-(4-Nitrophenyl)-4-(4-phenyl-1-piperidinyl)piperidine
3.0 g of 1-(4-nitrophenyl) -4-piperidone and 2.2 g of 4-phenylpiperidine were reacted as in Example 1. The product contained 1/6 mol of water of crystallization.

reactant | 1-(4-nitrophenyl) -4-piperidone | 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | 4-phenylpiperidine | 2.2 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | water | 1/6 mol | O | H2O
product | 1-(4-Nitrophenyl)-4-(4-phenyl-1-piperidinyl)piperidine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CCC(CC1)C1=CC=CC=C1 | C22H27N3O2
